US06943162B2
4-[2-({4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-[4-(3-pyridinylmethyl)-1-piperazinyl]-1,3,5-triazin-2-yl}amino)ethyl]phenol
The title compound was prepared in 48% yield via the procedure outlined for Example 5 using 4-(2-{[4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]amino}ethyl)phenol and 3-chloromethyl pyridine hydrochloride to give an off-white glass: 1H NMR (CDCl3, 400 MHz) δ 8.49-8.44 (m, 2H), 7.63 (d, 1H, J=7.6), 7.22 (t, 1H, J=4.8), 7.19-7.13 (m, 2H), 7.12-7.01 (m, 2H), 6.94 (d, 2H, J=8.0), 6.63 (d, 2H, J=8.0), 3.85-3.60 (m, 4H), 3.60-3.45 (m, 6H), 2.98 (s, 3H), 2.70 (t, 2H, J=6.4), 0.51 (m, 2H), 2.35 (m, 4H), 1.79(m, 2H); low resolution MS (ES+) m/e 574 (MH+); TLC (CH2Cl2/EtOAc/MeOH (5:5:1): Rf=0.43; Anal. calcd. for C31H37N8OCl: C, 64.96; H, 6.51; N, 19.55. Found: C, 64.72; H, 6.58; N, 19.46.

reactant | 4-(2-{[4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-(1-piperazinyl)-1,3,5-triazin-2-yl]amino}ethyl)phenol | ClC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCNCC1)NCCC1=CC=C(C=C1)O)C | C25H32ClN7O
reactant | 3-chloromethyl pyridine hydrochloride | Cl.ClCC=1C=NC=CC1
solvent | CH2Cl2 EtOAc MeOH | C(Cl)Cl.CCOC(=O)C.CO
product | 4-[2-({4-[[3-(4-chlorophenyl)propyl](methyl)amino]-6-[4-(3-pyridinylmethyl)-1-piperazinyl]-1,3,5-triazin-2-yl}amino)ethyl]phenol | 48% yield | ClC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCN(CC1)CC=1C=NC=CC1)NCCC1=CC=C(C=C1)O)C | C31H37ClN8O
